US08202865B2
Step 1: Ethyl 4-[isobutyl(propyl)amino]-3-nitrobenzoate
To a solution of ethyl 4-fluoro-3-nitrobenzoate (7.4 g, 0.035 mol) in ethanol (100 mL) was added N-isobutyl-N-propylamine (11.98 g, 0.104 mol) at RT. The reaction mixture was heated at 60° C. for 12 h. It was then concentrated under reduced pressure. The residue was dissolved in water (40 mL) and was acidified to pH=4 with 1 M HCl solution. It was extracted with EtOAc (2×75 mL). The combined organic phases were washed with brine, dried over sodium sulphate and evaporated to afford the title compound (10 g, 93%) as a yellow oil. 1H NMR (DMSO-d6, 400 MHz) δ 8.20 (s, 1H), 7.92 (m, 1H), 7.38 (m, 1H), 4.28 (m, 2H), 3.15 (m, 2H), 3.03 (m, 2H), 1.86 (m, 1H), 1.51 (m, 2H) 1.28 (m, 3H), 0.78 (m, 9H). LC/MS (Method A): 309.0 (M+H)+. HPLC (Method B) Rt 5.05 min (purity: 99.4%).

reactant | ethyl 4-fluoro-3-nitrobenzoate | 0.035 mol, 7.4 g | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | N-isobutyl-N-propylamine | 0.104 mol, 11.98 g | C(C(C)C)NCCC | C7H17N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 4-[isobutyl(propyl)amino]-3-nitrobenzoate | 10 g, 93% | C(C(C)C)N(C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])CCC | C16H24N2O4
